US09334263B2
To a solution of (S)-tert-butyl 2-((4-(4-(4-(5-bromopyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (100 mg, 0.17 mmol) and Pd(Amphos)Cl2 (11.7 mg, 0.17 mmol) in THF (2 mL, dried) was dropwise added a solution of (1-phenylethyl)zinc(II) bromide in THF (7.0 mL, 0.5 M, 3.4 mmol). The reaction mixture was stirred at 70° C. for 1 hour under N2, then cooled to room temperature and diluted with ethyl acetate (50 mL). After filtration, the filtrate was concentrated to afford (2S)-tert-butyl 2-((4-(4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate as a white solid (130 mg, crude), which was directly used in the next step without further purification. MS (ES+) C32H41N11O3 requires: 627, found: 628 [M+H]+.

reactant | (S)-tert-butyl 2-((4-(4-(4-(5-bromopyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 0.17 mmol, 100 mg | BrC=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C24H32BrN11O3
reactant | (1-phenylethyl)zinc(II) bromide | [Br-].C1(=CC=CC=C1)C(C)[Zn+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Amphos)Cl2 | 0.17 mmol, 11.7 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | THF | 3.4 mmol, 0.5 M, 7.0 mL | C1CCOC1 | C4H8O
product | (2S)-tert-butyl 2-((4-(4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | C1(=CC=CC=C1)C(C)C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C32H41N11O3
